Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
back pain x 1 week
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o male with prostate ca, DM II, and spinal stenosis who was 
in his usual state of health until last month.  He states that 
he was ambulatory and able to enjoy activities such as golf just 
over a month ago, but that his back pain started to become worse 
such that he had difficulty ambulating, leading to an epidural 
injection on ___.  The pain was ___, sharp, constant, over 
his back and down his right leg, and not positional.  He does 
note that his pain improves with resting.  Per pt, the last time 
he received an epidural injection was over ___ yrs ago.  He has 
denied significant back pain until this recent episode.  Pt 
denies recent trauma, fevers, chills, night sweats.  Pt was seen 
at ___ and transferred for spine evaluation.  
.
In the ED, vitals: 97.2, 85, 157/48, 16, 96 RA.  MRI spine was 
unchanged from prior ___ exam.  Abd U/S done to evaluate aorta 
which was normal.  Pt also had HCT at ___ which was normal, 
due to some question of confusion/AMS.
.
On the medical floor, VSS and patient reporting only mild back 
pain.
 
Past Medical History:
-HTN 
-HLD
-DM
-Carotid stenosis
-h/o TIA
-prostate cancer s/p resection
-___ colonoscopy "lymphocytic colitis"
 
Social History:
___
Family History:
mother was "anemic" and had heart disease. His father died of 
bladder cancer. Brother died of pancreatic cancer.
 
Physical Exam:
VITALS: T 97.6, HR 70, BP 154-159/68-71, RR 20, ___ 98 RA  
General: elderly gentleman, pale, in no significant distress; 
speaking and moving comfortably, alert to name and place not 
time 
HEENT: MMD, OP clear
Neck: no LAD 
Chest: CTAB
Heart: RRR, nl S1S2, no m/r/g
Abdomen: soft, nt, nd, NABS
Extremities: thin, no c/c/e, warm
Back: minimally tender over paraspinal muscles near L4/L5
Neuro: oriented to name and place but not time, 4+/5 strength 
RLE, ___ strength LLE, upper extremities ___ strength, normal 
sensation, downgoing babinski, neg straight leg test
Rectal: normal rectal tone
 
Pertinent Results:
Sodium on discharge was 130
Cr on discharge was 0.7
.
MRI FINDINGS: Alignment of the lumbar spine is normal. Bone 
marrow signal in the vertebral bodies is homogeneous except L5, 
where there is an area of T2 hyperintensity/T1 hypointensity 
seen on the previous study that may possibly represent 
hemangioma. The distal spinal cord and conus medullaris appear 
normal. The conus terminates at the T11/T12 level. No intradural 
abnormalities are seen nor are any fluid collections seen in the 
epidural space.
.
L2-L3: There is intervertebral disc desiccation without 
herniation. There is no spinal stenosis or neural foraminal 
narrowing. The facet joints are noted to be hypertrophic. 
.
L3-L4: Desiccation of the intervertebral disc without protrusion 
is noted. There is no spinal stenosis or neural foraminal 
narrowing. The facet joint are hypertrophy. 
.
L4-L5: There is intervertebral disc desiccation with mild 
posterior disc 
protrusion causing mild spinal canal stenosis, thickening of the 
ligamentum flavum is also contributing. The articular facet 
joints are hypertrophied, causing mild bilateral neural 
foraminal narrowing. 
.
L5-S1: There is intervertebral disc desiccation with mild 
bulging and 
posteriorly causing mild spinal stenosis along with a thickened 
ligamentum flavum. The facet joints are hypertrophied and there 
is mild bilateral neural foraminal narrowing.
. 
RETROPERITONEUM: The aorta and vena there are normal appearing. 
The kidneys are grossly normal appearing. 
.
There is no abnormal enhancement after contrast administration. 
The SI joints are normal. 
.
IMPRESSION: 
.
Multilevel degenerative changes with mild spinal stenosis at 
L4-L5 and L5-S1, stable hemangioma at L5, no significant change 
from previous study. No new fluid collections. 
.
___ 07:55AM   GLUCOSE-184* UREA N-45* CREAT-1.1 SODIUM-129* 
POTASSIUM-5.0 CHLORIDE-100 TOTAL CO2-23 ANION GAP-11
___ 07:55AM   estGFR-Using this
___ 07:55AM   WBC-6.1 RBC-3.42* HGB-11.0* HCT-31.6* MCV-93 
MCH-32.0 MCHC-34.7 RDW-13.7
___ 07:55AM   NEUTS-64.5 ___ MONOS-5.1 EOS-0.3 
BASOS-0.4
___ 07:55AM   PLT COUNT-211
___ 07:55AM   ___ PTT-28.5 ___ y/o male with hx of spinal stenosis, who was without back 
pain until ___, who now presents with acute back pain x 1 
week after epidural injection on ___.
.
1. Back pain - without red flags such as bowel 
incontinence/saddle anesthesia and with normal rectal tone. DDX 
included infection such as abscess, diskitis or osteomyelitis 
from potential seeding after his epidural injection (though less 
likely with unchanged MRI and physical exam). Less likely items 
on the differential included cauda equina (unlikely in this pt 
without saddle anesthesia, bilateral sciatica, leg weakness, 
negative MRI, normal rectal tone).  Of note, we considered 
recurrent prostate cancer on the DDX; however, patient has been 
biochemically disease free following his hormonal therapy, as 
per heme/onc notes in ___. Most likely etiology was felt 
to be progression of patient's spinal stenosis, despite 
unchanged MRI findings.  Initially attempted pain control with 
tylenol, but patient's pain adequately controlled on ultram 50 
mg q4 hours and ibuprofen 600 mg q6 hours prn with lidocaine 
patch.  Patient will be discharged on this regimen, and will 
have close follow-up with his primary care doctor.
.
2. ?Mental status changes/confusion - during initial exam, pt 
oriented to person and place, but not time but otherwise able to 
carry on appropriate conversation.  Had HCT at ___ for 
similar sx, which was read as no acute intracranial abnormality. 
 No hx of baseline dementia.  Hyponatremia may have been 
possible contributor, as his mental status improved throughout 
hospitalization.  After initial exam, patient did not exhibit 
any disorientation for the remainder of his hospitalization.  We 
also avoided narcotics in this patient who has had prior AMS 
with narcotics.
.
3. Hyponatremia - Na 129 on admission.  Pt initially fluid 
challenged for suspected dehydration, without Na correction and 
downward trend.  Urine lytes were much more consistent with a 
SIADH picture (high Uosm, high UNa).  With salt tablets and free 
water restriction to 1500 mL/day, pt's sodium corrected.  
Discharge Na 130.  Pain may have contributed to part of the 
SIADH picture, although pain was adequately controlled for past 
several days prior to d/c.  Hypervolemic conditions (including 
cirrhosis, nephrotic dz, cardiac dz) leading to low Na much less 
likely given physical exam and laboratory values.
.
4. HTN - stable and well controlled at home on current regimen.  
Pt was continued on amlodipine, atenolol, hydralazine, 
lisinopril, valsartan at home doses (pt on ACEi and ___ as per 
nephrology).
.
5. DM - stable, last A1c 6.9 per my records.  Pt was continued 
on home dose insulin lantus 12U at night with qid accuchecks and 
ISS.
.
6. Hypothyroidism - stable, last TSH 0.71 as per my records.  
Synthroid was continued as per home dose.
.
7. h/o TIAs - stable, without active issues.  Aggrenox and 
aspirin were continued as per neurology.
.
8. HLD - last LDL 54 as per my records.  Simvastatin 80 mg was 
continued (home regimen).
.
9. h/o "lymphocytic colitis" - as seen on colonoscopy, denies 
concerns.  Mesalamine continued at home regimen dose.
.
10. h/o prostate cancer s/p resection - no evidence of 
biochemical disease, as per most recent heme/onc note in ___.  To be followed-up by PCP and heme/onc.
 
Medications on Admission:
-amlodipine 10 mg Tablet - 1 Tablet(s) by mouth once a day
-atenolol - 25 mg Tablet - 0.5 Tablet(s) by mouth once a day
-aggrenox - 25 mg-200 mg Cap, Multiphasic
Release 12 hr - 1 Cap(s) by mouth twice a day
-hydralazine 25 mg Tablet - 3 Tablet(s) by mouth three times a
-INSULIN GLARGINE - 12 units at bedtime, per pt
-INSULIN LISPRO [HUMALOG] -  (Prescribed by Other Provider: Dr
___ - 100 unit/mL Solution - TID as directed
-synthroid - 88 mcg Tablet - 1 Tablet(s) by mouth
once a day
-lisinopril - 40 mg Tablet - 1 Tablet(s) by mouth once a day
-mesalamine - 400 mg tablet, 4 tabs by mouth, twice a day
- simvastatin - 80 mg Tablet - 1 Tablet(s) by mouth at bedtime
-valsartan - 160 mg Tablet - 1 Tablet(s) by mouth twice a day
-aspirin - 81 mg po qday
 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for back pain.
Disp:*30 Tablet(s)* Refills:*0*
3. Valsartan 160 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Mesalamine 400 mg Tablet, Delayed Release (E.C.) Sig: Four 
(4) Tablet, Delayed Release (E.C.) PO BID (2 times a day).  
6. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
7. Levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).  
9. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

10. Hydralazine 25 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours.
Disp:*120 Tablet(s)* Refills:*0*
11. Insulin Glargine 100 unit/mL Solution Sig: 12 units at 
bedtime units Subcutaneous once a day.  
12. Sodium Chloride 1 gram Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*20 Tablet(s)* Refills:*0*
13. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).
Disp:*30 Adhesive Patch, Medicated(s)* Refills:*2*
14. Insulin Glargine 100 unit/mL Solution Sig: Twelve (12) units 
Subcutaneous at bedtime.  
15. Insulin Lispro 100 unit/mL Solution Sig: per sliding scale  
Subcutaneous four times a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Primary:
Spinal stenosis
Hyponatremia
Hypertension
.
Secondary:
Diabetes
History of Prostate cancer 

 
Discharge Condition:
good, ambulating with some support, home ___ services

 
Discharge Instructions:
You were admitted to the hospital for acute back pain.  Repeat 
MRI was similar to your prior one from ___, showing spinal 
stenosis, without evidence of infection or nerve compression.  
Your back pain was felt to be related to your spinal stenosis, 
without other contributing factors.  You were placed on ultram 
and ibuprofen for pain control.  
.
Your sodium level was low while in the hospital.  We believe 
this is likely related to the effect of your back pain hormones 
released from the brain that regulate body fluid balance. After 
restricting your fluid intake, giving you salt tabs, and 
controlling your back pain your sodium has improved.
.
NEW MEDICATIONS:
--Sodium Chloride 1 gram by mouth twice a day
--Ultram 50 mg: this is a pain medication. avoid driving or 
operating heavy machinery while using this medication.
--Lidocaine patch: apply for no longer than 12 hours per day
.
MEDICATION CHANGES:
--Atenolol increased to 25mg daily
--Hydralazine changed to 25 mg four times per day
.
***Please drink no more than 1.5 liters of fluid per day****
.
While you were admitted, physical therapy worked with your 
ambulation and back pain.  Upon discharge, you were ambulating 
with some assistance, and you will be discharged home with ___ 
services. We also recommend that you have outpatient physical 
therapy.
.
If you experience fevers, chills, night sweats, dizziness, 
falls, chest pain or shortness of breath please contact your 
primary care physician or go to the emergency department for 
evaluation.
 
Followup Instructions:
___